US08053438B2
A clear 150 ml pressure tube was charged with (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone (1.00 g, 2.85 mmol),2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.396 g, 11.40 mmol), Bis-[4-(di-tert-butylphosphino)-N,N-dimethylbenzenamine]palladium dichloride (0.101 g, 0.143 mmol), potassium acetate (0.616 g, 6.27 mmol), dioxane (9 mL) and water (1.000 mL). The reaction flask was flushed with nitrogen and capped. The reaction was heated to 100° C. for 16 hours. The reaction was then cooled down to RT and partitioned with ethyl acetate (50 ml) and water (50 ml). The organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate and then filtered. The volatile were reduced to a smaller volume and the solid that precipitated out was filtered off. The cake obtained was suspended in hot MeOH, filtered and dried to give (1H-benzo[d]imidazol-2-yl)(4-(3-(3,6-dihydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanone as a yellow solid.

reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone | 2.85 mmol, 1.00 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2Cl | C18H11ClN4O2
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 11.40 mmol, 2.396 g | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | potassium acetate | 6.27 mmol, 0.616 g | C(C)(=O)[O-].[K+]
reactant | dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
solvent | water | 1.000 mL | O | H2O
product | (1H-benzo[d]imidazol-2-yl)(4-(3-(3,6-dihydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanone | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C=2CCOCC2 | C23H18N4O3
